US08629270B2
Racemic N-[7a-(3-Cyanophenyl)-6-(5-fluoropyrimidin-2-yl)-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-yl]benzamide
To a solution of racemic N-[7a-(3-bromophenyl)-6-(5-fluoropyrimidin-2-yl)-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-yl]benzamide (310 mg, 605 μmol) and zinc cyanide (170 mg, 1.42 mmol) in dimethylformamide (6.0 mL) is added tetrakis(triphenylphosphine) palladium (200 mg, 171 μmol). The resulting mixture is heated at 100° C. under N2 for 16.5 hours before being cooled to room temperature, filtered through diatomaceous earth, and washed with ethyl acetate (30 mL). The combined filtrate is washed with semi-saturated sodium bicarbonate solution (50 mL), extracted with ethyl acetate (30 mL), and chloroform (30 mL). The combined organic layers are dried over magnesium sulfate, filtered, and concentrated to dryness. The residue is purified by silica gel flash chromatography, eluting with a gradient of ethyl acetate/dichloromethane (0 to 30%) to give the title compound (187 mg, 67%). EI/MS (m/e): 459.0 (M+H).

reactant | racemic N-[7a-(3-bromophenyl)-6-(5-fluoropyrimidin-2-yl)-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-yl]benzamide | 605 μmol, 310 mg | BrC=1C=C(C=CC1)C12N=C(SCC1CN(C2)C2=NC=C(C=N2)F)NC(C2=CC=CC=C2)=O | C23H19BrFN5OS
reactant | dimethylformamide | 6.0 mL | CN(C=O)C | C3H7NO
catalyst | zinc cyanide | 1.42 mmol, 170 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine) palladium | 171 μmol, 200 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | Racemic N-[7a-(3-Cyanophenyl)-6-(5-fluoropyrimidin-2-yl)-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-yl]benzamide | 187 mg, 67% | C(#N)C=1C=C(C=CC1)C12N=C(SCC1CN(C2)C2=NC=C(C=N2)F)NC(C2=CC=CC=C2)=O | C24H19FN6OS
